US07977358B2
A] 5-(3-Bromo-phenyl)-4-methyl-1H-pyrazole-3-carboxylic acid ethyl ester
In analogy to the procedure described in example 16A], 4-(3-bromo-phenyl)-3-methyl-2,4-dioxo-butyric acid ethyl ester (synthesized from 3′-bromopropiophenone and diethyl oxalate, following a procedure described in Ksander, Gary M.; McMurry, John E.; Johnson, Mark. A method for the synthesis of unsaturated carbonyl compounds. Journal of Organic Chemistry (1977), 42(7), 1180-5) and hydrazine monohydrate were heated at 90° C. in EtOH for 1 h to give after crystallization (Et2O/n-penatane) the title compound in 46% yield as off-white powder. MS: 308.1 (M+, 1 Br).

reactant | 4-(3-bromo-phenyl)-3-methyl-2,4-dioxo-butyric acid ethyl ester | C(C)OC(C(C(C(=O)C1=CC(=CC=C1)Br)C)=O)=O | C13H13BrO4
reactant | 3′-bromopropiophenone | BrC=1C=C(C=CC1)C(CC)=O | C9H9BrO
reactant | diethyl oxalate | C(C(=O)OCC)(=O)OCC | C6H10O4
reactant | hydrazine monohydrate | O.NN
solvent | EtOH | CCO | C2H6O
product | 5-(3-Bromo-phenyl)-4-methyl-1H-pyrazole-3-carboxylic acid ethyl ester | 46% yield | C(C)OC(=O)C1=NNC(=C1C)C1=CC(=CC=C1)Br | C13H13BrN2O2
